US07666848B2
b) (3-Hydroxy-thiophen-2-yl)-(4-methoxy-phenyl)-methanone
993 mg of (4-methoxy-phenyl)-(3-methoxy-thiophen-2-yl)-methanone were dissolved in 20 ml of dry dichloromethane, and 7 ml of boron tribromide/dimethyl sulfide complex were added. The mixture was stirred at room temp. until the reaction was complete (TLC check). It was then poured into water and extracted several times with dichloromethane. The organic phase was dried and concentrated, and the residue was purified by column chromatography (SiO2, ethyl acetate/n-heptane=1:4). The product with the molecular weight of 234.3 (C12H10O3S), MS (Cl): 235 (M+H+) was obtained.

reactant | (4-methoxy-phenyl)-(3-methoxy-thiophen-2-yl)-methanone | 993 mg | COC1=CC=C(C=C1)C(=O)C=1SC=CC1OC | C13H12O3S
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (3-Hydroxy-thiophen-2-yl)-(4-methoxy-phenyl)-methanone | OC1=C(SC=C1)C(=O)C1=CC=C(C=C1)OC | C12H10O3S
